US07030139B2
20C: 1-(Cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazole-5-carbonitrile.
Following the general procedure 2D, the freshly prepared (4-ethoxyphenyl)acetyl chloride (from 793 mg of acid, 4.4 mmol) and crude 3-amino-4-[(cyclopropylmethyl)amino]benzonitrile (750 mg, 4.01 mmol) were heated in acetic acid (HOAc) overnight. After work-up, the crude residue was purified by silica gel column chromatography to afford pure product (1.04 g, 78%) as an off-white solid. 1H NMR (400 MHz, CDCl3): δ 8.08 (s, 1H), 7.50 (d, J=8.4 Hz, 1H), 7.38 (d, J=8.4 Hz, 1H), 7.14 (d, J=8.4 Hz, 2H), 6.84 (d, J=8.4 Hz, 2H), 4.29 (s, 2H), 4.01 (d, J=7.6 Hz, 2H), 3.96 (q, J=7.6 Hz, 2H), 1.39 (t, J=7.6 Hz, 3H), 1.04–1.00 (m, 1H), 0.58–0.53 (m, 2H), 0.29–0.25 (m, 2H). MS (ESI) (M+H)+=332. Anal. Calcd for C21H21N3O.0.1H2O: C, 75.50; H, 6.41; N, 12.61. Found: C, 75.76; H, 6.72; N, 12.45.

reactant | (4-ethoxyphenyl)acetyl chloride | 4.4 mmol, 793 mg | C(C)OC1=CC=C(C=C1)CC(=O)Cl | C10H11ClO2
reactant | 3-amino-4-[(cyclopropylmethyl)amino]benzonitrile | 4.01 mmol, 750 mg | NC=1C=C(C#N)C=CC1NCC1CC1 | C11H13N3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(Cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazole-5-carbonitrile | 1.04 g, 78% | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C#N)CC2=CC=C(C=C2)OCC | C21H21N3O
